US06066672
N-[(S)-2-(tert-Butoxycarbonylamino)hexyl]-L-tyrosine methyl ester (4.8 g, 12 mmol) was dissolved in 1,4-dioxane (50 ml), and di-tert-butyl dicarbonate (5.2 g, 24 mmol) was added thereto, followed by heating at 80° C. for 8 hours. After cooling, the organic layer was concentrated under reduced pressure, and purified by column chromatography to give by N-(tert-butoxycarbonyl)-N-[(S)-2-(tert-butoxycarbonylamino)hexyl]-L-tyrosine methyl ester (5.9 g).

reactant | N-[(S)-2-(tert-Butoxycarbonylamino)hexyl]-L-tyrosine methyl ester | 12 mmol, 4.8 g | COC([C@@H](NC[C@H](CCCC)NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C21H34N2O5
reactant | di-tert-butyl dicarbonate | 24 mmol, 5.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | N-(tert-butoxycarbonyl)-N-[(S)-2-(tert-butoxycarbonylamino)hexyl]-L-tyrosine methyl ester | 5.9 g | COC([C@@H](N(C[C@H](CCCC)NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C26H42N2O7
